US07608629B2
2-Chloro-4-fluoro-N-[3-(1-methyl-piperidin-4-ylsulfanyl)-phenyl]-benzamide hydrogen chloride salt
Combine pyridine (0.110 mL, 1.36 mmol), 3-(1-methyl-piperidin-4-ylsulfanyl)-phenylamine (preparation 76,151 mg, 0.679 mmol) in dichloromethane (6.5 mL) at 0° C. Stir and add 2-chloro-4-fluorobenzoyl chloride (0.105 mL, 0.815 mmol). Allow to warm to ambient temperature and stir. After 2 hr., dilute with dichloromethane (10 mL) and wash with sodium hydroxide (1N, 3×10 mL). Combine the organic layers, dry over sodium sulfate and concentrate under reduced pressure. Purification by flash chromatography, eluting with dichloromethane/ammonia (2.0 N in methanol) [20/1] to give the title compound as free base (184 mg, 72%). Dissolve the residue in diethyl ether and treat with ethereal hydrogen chloride (1.0 M). Triturate the resulting gum with ether to give the title compound as the hydrogen chloride salt. 1H NMR (free base, CDCl3): 8.37 (bs, 1H), 7.65 (s, 1H), 7.58 (t, J=6.8 Hz, 1H), 7.42 (d, J=7.7 Hz, 1H), 7.21 (t, J=7.8 Hz, 1H), 7.14-7.06 (m, 2H), 6.99-6.93 (m, 1H), 3.05 (bs, 1H), 2.71 (bd, J=11.5 Hz, 2H), 2.19 (s, 3H), 2.03-1.90 (m, 4H), 1.67-1.56 (m, 2H). 13C NMR (free base, CDCl3): 164.9, 162.2 (d, JC-F=167.7 Hz), 137.9, 135.8, 132.0, 131.7 (d, JC-F=8.6 Hz), 131.4, 129.3, 128.0, 123.0, 118.6, 117.5 (d, JC-F=25.0 Hz), 114.5 (d, JC-F=21.3 Hz), 54.9, 46.0, 43.6, 32.4.

reactant | pyridine | 1.36 mmol, 0.110 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-(1-methyl-piperidin-4-ylsulfanyl)-phenylamine | 0.679 mmol, 76,151 mg | CN1CCC(CC1)SC=1C=C(C=CC1)N | C12H18N2S
reactant | 2-chloro-4-fluorobenzoyl chloride | 0.815 mmol, 0.105 mL | ClC1=C(C(=O)Cl)C=CC(=C1)F | C7H3Cl2FO
solvent | dichloromethane | 6.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Chloro-4-fluoro-N-[3-(1-methyl-piperidin-4-ylsulfanyl)-phenyl]-benzamide hydrogen chloride salt | Cl.ClC1=C(C(=O)NC2=CC(=CC=C2)SC2CCN(CC2)C)C=CC(=C1)F | InChI=1S/C19H20ClFN2OS.ClH/c1-23-9-7-15(8-10-23)25-16-4-2-3-14(12-16)22-19(24)17-6-5-13(21)11-18(17)20;/h2-6,11-12,15H,7-10H2,1H3,(H,22,24);1H
